US06964965B2
A 7 ml vial was charged with methyl (3R,4S)-3-[(3,6-diethyl-5-iodopyrazin-2-yl)amino]-4-ethoxypyrrolidine-1-carboxylate (100 mg), 6-methoxy-2,3-dihydro-1H-inden-5-ylboronic acid (82 mg) (Preparation 2), tetrakis(triphenylphosphine)palladium (20 mg), 2 M Na2CO3 (0.4 mL), and ethylene glycol dimethyl ether (1.6 mL). The reaction was stirred for 18 hours at 80° C. The reaction was poured into sat. aq. NaHCO3 and extracted with ethyl ether. The organic phases were combined, dried with MgSO4, filtered, and concentrated. The crude was purified with flash column chromatography (silica, a gradient of 10-25% EtOAc in heptane) to give 97 mg, 95% of methyl (3R,4S)-3-{[3,6-diethyl-5-(6-methoxy-2,3-dihydro-1H-inden-5-yl)pyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate. IR (diffuse reflectance) 2967, 2934, 2876, 2350, 2335, 2224, 2063, 1940, 1710, 1568, 1482, 1466, 1451, 1392, 1348 cm−1 HRMS (ESI) calcd for C26H36N4O4+H1 469.2815. found 469.2805. Anal. Calcd for C26H36N4O4: C, 66.64; H, 7.74; N, 11.96. Found: C, 66.27; H, 7.61; N, 11.75.

reactant | methyl (3R,4S)-3-[(3,6-diethyl-5-iodopyrazin-2-yl)amino]-4-ethoxypyrrolidine-1-carboxylate | 100 mg | C(C)C=1C(=NC(=C(N1)I)CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OC | C16H25IN4O3
reactant | 6-methoxy-2,3-dihydro-1H-inden-5-ylboronic acid | 82 mg | COC1=C(C=C2CCCC2=C1)B(O)O | C10H13BO3
reactant | Na2CO3 | 2 M, 0.4 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethylene glycol dimethyl ether | 1.6 mL | COCCOC | C4H10O2
product | methyl (3R,4S)-3-{[3,6-diethyl-5-(6-methoxy-2,3-dihydro-1H-inden-5-yl)pyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate | 97 mg, 95% | C(C)C=1C(=NC(=C(N1)C=1C=C2CCCC2=CC1OC)CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OC | C26H36N4O4
